US06881733B1
1.0 gm (3.34 mMol) 1-(1-trifluoromethylprop-1-en-3-yloxy)-2-bromo-4-fluorobenzene was heated at 250° C. for 3 hours. The reaction mixture, containing primarily 2-(3-trifluoromethylprop-1-en-3-yl)-4-fluoro-6-bromophenol, was diluted with dichloromethane and the solution cooled to −78° C. This solution was then treated with excess ozone and was stirred at −78° C. until the 2-(3-trifluoromethylprop-1-en-3-yl)-4-fluoro-6-bromophenol was consumed as measured by thin layer chromatography. At this point the ozone was purged from the reaction with oxygen and then 0.88 gm (3.34 mMol) triphenylphosphine were added. The mixture was stored at −20° C. for about 64 hours. The reaction mixture was then concentrated under reduced pressure and the residue subjected to flash silica gel chromatography, eluting with hexane containing 10% ethyl acetate. Fractions containing the desired compound were combined and concentrated under reduced pressure to provide 2-hydroxy-3-trifluoromethyl-5-fluoro-7-bromo-2,3-dihydrobenzofuran. A solution of this dihydrobenzofuran in 10 mL toluene was treated with 4 drops of sulfuric acid and was stirred at reflux for 10 minutes. The reaction mixture was cooled to room temperature and was then washed with saturated aqueous sodium bicarbonate. The organic phase was separated and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with hexane. Fractions containing product were combined and concentrated under reduced pressure to provide the title compound.

reactant | 1-(1-trifluoromethylprop-1-en-3-yloxy)-2-bromo-4-fluorobenzene | 3.34 mMol, 1.0 gm | FC(C=CCOC1=C(C=C(C=C1)F)Br)(F)F | C10H7BrF4O
reactant | 2-(3-trifluoromethylprop-1-en-3-yl)-4-fluoro-6-bromophenol | FC(C(C=C)C1=C(C(=CC(=C1)F)Br)O)(F)F | C10H7BrF4O
reactant | ozone | O=[O+][O-] | O3
reactant | triphenylphosphine | 3.34 mMol, 0.88 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-hydroxy-3-trifluoromethyl-5-fluoro-7-bromo-2,3-dihydrobenzofuran | OC1OC2=C(C1C(F)(F)F)C=C(C=C2Br)F | C9H5BrF4O2
